US05739104
Preparation of BOC-alloisoleucine
L-allo-isoleucine (20.0 gm, 0.152 mole) was suspended in 200 ml of 50% MeOH/H2O. The pH was adjusted to 9-9.5 with 4N NaOH. The reaction mixture was cooled to 10° C. and di-tert butoxydicarbonate (39.8 gm, 0.184 mole) was added. The pH was maintained at 9-9.5 with NaOH. After about 0.5 hour, the cooling bath was removed. The reaction mixture was stirred at room temperature for 3-4 hours. TLC in 5% MeOH/CH2 Cl2 was taken. When the reaction was complete, the reaction mixture was acidified to pH 3 with 20% citric acid, extracted with 3×500 mL of CH2Cl2, dried over MgSO4, filtered and evaporated to give a gum. 200 mL of toluene were added and the reaction mixture was evaporated. This last step was repeated two more times to obtain a gum which was dried under high vacuum for 2 days to give a solid (37.53 gm).

reactant | L-allo-isoleucine | 0.152 mole, 20.0 gm | N[C@@H]([C@H](C)CC)C(=O)O | C6H13NO2
reactant | NaOH | 4N | [OH-].[Na+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | MeOH H2O | 200 ml | CO.O
product | BOC-alloisoleucine | 37.53 gm | C(=O)(OC(C)(C)C)N[C@@H]([C@H](C)CC)C(=O)O | C11H21NO4
